US06440899B1
1-(Phenylcarbonyloxy)-2-(4,4,8-trimethyl-1,1-dioxothiochroman-7-yl)carbonylcyclohex-1-en-3-one (Compound 3.22)
0.8 g (2.2 mmol) of 2-(4,4,8-trimethyl-1,1-dioxothiochroman-7-yl)carbonyl-1,3-cyclohexanedione was dissolved in 10 ml of methylene chloride, and 0.17 g (2.2 mmol) of pyridine and 0.31 g (2.2 mmol) of benzoyl chloride was added. The mixture was stirred at room temperature for 2 hours, water was added, and the organic phase was separated off, extracted with 2 N hydrochloric acid and dried. The solvent was subsequently distilled off and the residue was chromatographed over silica gel.

reactant | 2-(4,4,8-trimethyl-1,1-dioxothiochroman-7-yl)carbonyl-1,3-cyclohexanedione | 2.2 mmol, 0.8 g | CC1(CCS(C2=C(C(=CC=C12)C(=O)C1C(CCCC1=O)=O)C)(=O)=O)C | C19H22O5S
reactant | pyridine | 2.2 mmol, 0.17 g | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 2.2 mmol, 0.31 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(Phenylcarbonyloxy)-2-(4,4,8-trimethyl-1,1-dioxothiochroman-7-yl)carbonylcyclohex-1-en-3-one | C1(=CC=CC=C1)C(=O)OC1=C(C(CCC1)=O)C(=O)C1=CC=C2C(CCS(C2=C1C)(=O)=O)(C)C | C26H26O6S
